US04789680
27.5 g (0.15 mole) of 6-chloro-2-fluorobenzyl azide and 10.5 g (0.15 mole) of propinecarboxylic acid in 300 ml of toluene are heated for 3 hours to 90° C. After cooling, the crystals are filtered with suction and recrystallised from acetonitrile to give 1-(6-chloro-2-fluorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid with a melting point of 182° C. (dec.).

reactant | 6-chloro-2-fluorobenzyl azide | 0.15 mole, 27.5 g | ClC1=CC=CC(=C1CN=[N+]=[N-])F | C7H5ClFN3
reactant | propinecarboxylic acid | 0.15 mole, 10.5 g | C(#CC)C(=O)O | C4H4O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(6-chloro-2-fluorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid | ClC1=CC=CC(=C1CN1N=NC(=C1)C(=O)O)F | C10H7ClFN3O2
